US06498172B1
{3-[(4-Thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester
The title compound of Step A was prepared from (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester, of Preparation 20, and 4-thiazol-2-yl-benzaldehyde, of Preparation 25, following the procedure described in Example 3, Step A except no triethylamine was used. 1H NMR (400 MHz, CDCl3) δ 7.90 (d, 2H), 7.82 (d, 1H), 7.39 (d, 2H), 7.28 (d, 1H), 7.22 (m, 1H), 6.92 (m, 2H), 6.77 (m, 1H), 4.50 (s, 2H), 3.80 (s, 2H), 3.76 (s, 2H), 1.46 (s, 9H); MS 411 (M+1).

reactant | (3-aminomethyl-phenoxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CN)=O | C13H19NO3
reactant | 4-thiazol-2-yl-benzaldehyde | S1C(=NC=C1)C1=CC=C(C=O)C=C1 | C10H7NOS
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | {3-[(4-Thiazol-2-yl-benzylamino)-methyl]-phenoxy}-acetic acid tert-butyl ester | C(C)(C)(C)OC(COC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1SC=CN1)=O | C23H26N2O3S
